US08048909B2
4-Methyl-5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrole-3-carbaldehyde
Using 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg), sodium hydride (60% in oil, 60 mg), 15-crown-5 (0.30 mL) and (3-thienyl)sulfonyl chloride (237 mg), a procedure as in Reference Example 219 was performed to give the title compound as a solid (yield 290 mg, 88%).

reactant | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.30 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | (3-thienyl)sulfonyl chloride | 237 mg | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 4-Methyl-5-phenyl-1-(3-thienylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 290 mg, 88% | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CSC=C1)C=O | C16H13NO3S2
